data/mechanism_extracts/ACSCatal/10.1021_acscatal.1c05557_sup_1.json
{"doi": "10.1021_acscatal.1c05557_sup_1", "journal": "ACSCatal", "is_review": false, "rxn_class_summary": "Electrochemical cobalt-catalyzed hydrofunctionalization (hydromethoxylation/hydroalkoxylation) of alkenes proceeding via metal-hydride hydrogen atom transfer (MHAT) and radical-polar crossover", "mechanism_family": ["electrocatalysis_inner_sphere", "radical_polar_crossover", "mediator_cathodic"], "electrochemical_role": "Cathodic reduction regenerates the active Co(II/I) catalyst; Co-H is generated from Ph2SiH2 and delivers H• to alkene (MHAT); the carbon radical is further oxidized (anodically or via Co) to a carbocation that is trapped by MeOH/ROH", "key_intermediates": [{"name": "Co-H species (from Ph2SiH2)", "smiles": null, "role": "reactive"}, {"name": "carbon-centered radical (from MHAT to alkene)", "smiles": null, "role": "transient"}, {"name": "carbocation (after SET oxidation of C-radical)", "smiles": null, "role": "reactive"}, {"name": "Co(II)/Co(I) resting state", "smiles": null, "role": "resting_state"}], "electron_flow": "Electrochemically generated low-valent Co reacts with Ph2SiH2 to form a Co-H; HAT to alkene gives a carbon radical, which is oxidized to a carbocation and trapped by the alcohol nucleophile (MeOH) to give the ether; Co is regenerated cathodically.", "rate_determining_step": null, "probe_reagents": [{"name": "CD3OD (deuterated methanol)", "smiles": "[2H]OC([2H])([2H])[2H]", "purpose": "isotope_label", "observation": "Product 13 (cyclized THF) showed <2% D incorporation at the methyl-derived position, indicating the H delivered to the alkene comes from Ph2SiH2 (Co-H) and not from the alcohol solvent"}, {"name": "(1-cyclopropyl-1-phenyl)alkene / vinylcyclopropane 14", "smiles": "C(=C)C1(c2ccccc2)CC1", "purpose": "radical_clock", "observation": "Ring-opened product 15 (homoallyl methyl ether, 40%) obtained, consistent with a carbon-centered radical intermediate undergoing cyclopropane ring opening before C-O bond formation"}, {"name": "n-Bu4NBF4 electrolyte", "smiles": null, "purpose": "redox_probe", "observation": "Electrolyte identity affects hydromethoxylation efficiency (Figure 5e), supporting electrochemical involvement"}], "evidence_types_used": ["H/D_labeling", "radical_clock", "cyclic_voltammetry", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "Additional mechanistic probes include CV studies (III-A), attempts at asymmetric catalysis (III-D) which failed — consistent with a free (non-Co-bound) carbocation/radical intermediate after MHAT, supporting the radical-polar crossover pathway rather than a Co-alkyl inner-sphere ionization."}
